US05817671
5-(N-[5-chloro-2-thiophenecarbonyl]amino)-3-(1-methylpiperidin-4-yl)pyrrolo[3,2-b]pyridine
Beginning with 0.30 gm (1.3 mMol) 5-amino-3-(1-methylpiperidin-4-yl)pyrrolo[3,2-b]pyridine and 0.29 gm (1.56 mMol) 5-chloro-2-thiophenecarbonyl chloride, 0.36 gm (75%) of the title compound were prepared essentially by the procedure described in Example 4.

reactant | 5-amino-3-(1-methylpiperidin-4-yl)pyrrolo[3,2-b]pyridine | 1.3 mMol, 0.30 gm | NC1=CC=C2C(=N1)C(=CN2)C2CCN(CC2)C | C13H18N4
reactant | 5-chloro-2-thiophenecarbonyl chloride | 1.56 mMol, 0.29 gm | ClC1=CC=C(S1)C(=O)Cl | C5H2Cl2OS
product | 5-(N-[5-chloro-2-thiophenecarbonyl]amino)-3-(1-methylpiperidin-4-yl)pyrrolo[3,2-b]pyridine | 0.36 gm, 75% | ClC1=CC=C(S1)C(=O)NC1=CC=C2C(=N1)C(=CN2)C2CCN(CC2)C | C18H19ClN4OS
